US05656629
To a solution of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (1.0 g, 4.5 mmol) in benzene (10 ml) in an ice bath was added trimethylaluminum (4.9 ml, 2M in toluene). The reaction mixture was stirred at room temperature for 1 hour, then 1-(ethoxycarbonylmethyl)pyrrole (0.7 g) in benzene (25 ml) was added and the reaction mixture was refluxed overnight. The reaction mixture was cooled, 2N HCl was added and the mixture was extracted with CHCl3 (3×). The organic layer was separated, dried over MgSO4, and concentrated in vacuo. The residue was digested with ether and recrystallized from ether to afford 1-cyclopentyl-3-ethyl-6-(1-pyrrolylmethyl)-pyrazolo[3,4-d]pyrimidin-4-one, m.p. 170°-172° C.

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 4.5 mmol, 1.0 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | trimethylaluminum | 2M, 4.9 ml | C[Al](C)C
reactant | 1-(ethoxycarbonylmethyl)pyrrole | 0.7 g | C(C)OC(=O)CN1C=CC=C1 | C8H11NO2
reactant | HCl | 2N | Cl | ClH
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 1-cyclopentyl-3-ethyl-6-(1-pyrrolylmethyl)-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC=2NC=CC2)CC | C17H21N5O
